US07550598B2
(Z)-3-methyl-4-(4-(o-tolylthio)quinolin-2(1H)-ylidene)-1H-pyrazol-5(4H)-one
The title compound was prepared from (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one and 2-methylbenzenethiol using a procedure analogous to the one described in Example 6. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.94 (s, 3H) 2.32 (s, 3H) 6.79 (s, 1H) 7.58-7.68 (m, 3H) 7.76-7.88 (m, 3H) 7.92 (d, J=8.14 Hz, 1H) 8.18 (d, J=8.24 Hz, 1H) 10.38 (s, 1H) 13.10 (bs, 1H); ESI-MS: m/z calc'd for C20H17N3OS 347.11. found 348.3 (M+H)+.

reactant | (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one | ClC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)C | C13H10ClN3O
reactant | 2-methylbenzenethiol | CC1=C(C=CC=C1)S | C7H8S
product | (Z)-3-methyl-4-(4-(o-tolylthio)quinolin-2(1H)-ylidene)-1H-pyrazol-5(4H)-one | CC/1=NNC(\C1=C\1/NC2=CC=CC=C2C(=C1)SC1=C(C=CC=C1)C)=O | C20H17N3OS
